US07262212B2
Tert-butyl 4-hydroxypiperidine-1-carboxylate (0.396 g, 1.97 mmol) was dissolved in DMF (5 ml), to which sodium hydride (0.086 g, 2.16 mmol) was added, and the mixture was stirred at room temperature for 1 hour. Cinnamyl chloride (0.300 g, 1.97 mmol) was added to the mixture while cooling in an ice-bath, and the resulting mixture was stirred overnight. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with water and brine. The organic layer was dried over magnesium sulfate, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=6/1) to afford tert-butyl 4-(3-phenyl-2-propenyloxy)piperidine-1-carboxylate (0.314 g, yield 50%) as a yellow oil.

reactant | Tert-butyl 4-hydroxypiperidine-1-carboxylate | 1.97 mmol, 0.396 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | sodium hydride | 2.16 mmol, 0.086 g | [H-].[Na+]
reactant | Cinnamyl chloride | 1.97 mmol, 0.300 g | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(3-phenyl-2-propenyloxy)piperidine-1-carboxylate | 0.314 g, yield 50% | C1(=CC=CC=C1)C=CCOC1CCN(CC1)C(=O)OC(C)(C)C | C19H27NO3
